US03998809
A solution of 3.7 g of 1-methyl-2-chloromethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine in 20 ml glacial acetic acid and 6 ml concentrated sulfuric acid were reacted at 5° C with a solution of 3.2 g potassium nitrate in 7 ml concentrated sulfuric acid. The reaction mixture was stirred for 1 hour at room temperature, then poured onto ice, made alkaline with dilute sodium hydroxide and extracted with chloroform. The several chloroform extracts were dried and concentrated by evaporation in a vacuum. The residual oil was dissolved in isopropanol and reacted with an ether solution of hydrogen chloride. There were obtained 7-nitro-2-chloromethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine hydrochloride; m.p. 213° - 214° C.

reactant | 1-methyl-2-chloromethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 3.7 g | CN1C(CN=C(C2=C1C=CC=C2)C2=CC=CC=C2)CCl | C17H17ClN2
reactant | potassium nitrate | 3.2 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 7 ml | S(O)(O)(=O)=O | H2O4S
product | 7-nitro-2-chloromethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine hydrochloride | Cl.[N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)CCl)C2=CC=CC=C2)C1 | InChI=1S/C16H14ClN3O2.ClH/c17-9-12-10-18-16(11-4-2-1-3-5-11)14-8-13(20(21)22)6-7-15(14)19-12;/h1-8,12,19H,9-10H2;1H
